US04350706
Preparation of N-(2-bromobenzoyl)-N'-[4-(1-phenylethoxy)phenyl]urea (97)
1.0 g of 50% sodium hydride dispersion in mineral oil was added at room temperature to a solution of 4.0 g of 2-bromobenzoyl amide in 25 ml of dry acetonitrile. After stirring for approximately 30 minutes at room temperature, 4.78 g of 4-(1-phenylethoxy)phenylisocyanate were added, the reaction mixture becoming warm and substantially homogeneous. After stirring for another approximately 16 hours at room temperature the reaction mixture was filtered. The filtrate was acidified with dilute hydrochloric acid. The resulting precipitate was sucked off and washed successively with acetonitrile, ethanol and petroleum ether (40-60). The desired product was obtained in a yield of 1.85 g; the melting point was determined on a "Kofler bank" and was 155.5° C.

reactant | sodium hydride | 1.0 g | [H-].[Na+]
reactant | 2-bromobenzoyl amide | 4.0 g | BrC1=C(C(=O)[NH-])C=CC=C1
reactant | 4-(1-phenylethoxy)phenylisocyanate | 4.78 g | C1(=CC=CC=C1)C(C)OC1=CC=C(C=C1)N=C=O | C15H13NO2
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | N-(2-bromobenzoyl)-N'-[4-(1-phenylethoxy)phenyl]urea | BrC1=C(C(=O)NC(=O)NC2=CC=C(C=C2)OC(C)C2=CC=CC=C2)C=CC=C1 | C22H19BrN2O3
